US06451814B1
4-(4-{2-[(2S)-3-(3-Acetylamino-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide 0.421 g, 1.0 mmol) was reacted with N-{3-[(2S)oxiranylmethoxy]phenyl}acetamide (0.207 g, 1.0 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.168 g, 0.289 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide | 1.0 mmol, 0.421 g | NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1 | C22H38N4O
reactant | N-{3-[(2S)oxiranylmethoxy]phenyl}acetamide | 1.0 mmol, 0.207 g | O1[C@@H](C1)COC=1C=C(C=CC1)NC(C)=O | C11H13NO3
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-3-(3-Acetylamino-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.289 mmol, 0.168 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC(=CC=C1)NC(C)=O)O | C33H51N5O4
